US05262441
A mixture of 0.30 g of potassium carbonate, 0.40 g of 2-chloro-4-sec-butoxyphenol, 0.28 g of p-methylbenzyl chloride and 15 ml of N,N-dimethylformamide was stirred at room temperature overnight. The reaction mixture was poured into ice-water and extracted twice with 100 ml of ethyl acetate. The extracts were combined together, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 0.50 g of 1-sec-butoxy-3-chloro-4-(4-methylbenzyloxy)benzene. Yield, 82%. nD18.9 1.5557.

reactant | potassium carbonate | 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-sec-butoxyphenol | 0.40 g | ClC1=C(C=CC(=C1)OC(C)CC)O | C10H13ClO2
reactant | p-methylbenzyl chloride | 0.28 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-sec-butoxy-3-chloro-4-(4-methylbenzyloxy)benzene | 0.50 g | C(C)(CC)OC1=CC(=C(C=C1)OCC1=CC=C(C=C1)C)Cl | C18H21ClO2
